Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Cytotec
 
Attending: ___.
 
Chief Complaint:
bleeding
 
Major Surgical or Invasive Procedure:
dilation and suction curretage

 
History of Present Illness:
Pt is a ___ G2P0 at ___ GA who presents for heaving bleeding 
and cramping since 10pm last night. Went to the bathroom and 
'filled toilet with blood'. Shows piture of ~golf ball sized 
clot on TP. Denies seeing anything other than bright red blood 
and clots. Had U/S on ___ which was normal. Has continued to
bleed on her way to the hospital. Cramping continues. This is a 
strongly desired pregnancy.

Also reports fevers with Tm of 101 at home. Denies cough, N/V, 
diarrhea, dysuria. Last ate at 8pm.

 
Past Medical History:
PMH: denies
PSH: denies
OBHx: G2P0
- Missed abortion in ___ requiring cytotec-> allergic rxn
- Current
GYNHx: denies

 
Social History:
denies T/D/E. Husband currently in ___, denies having local 
supports currently available
 
Physical Exam:
DISCHARGE EXAM

AVSS
RRR
CTAB
ABD: soft, NT, ND, no rebound/guarding
GU: minimal spotting on pad
EXT: WWP
 
Pertinent Results:
___ 03:09AM   WBC-13.0* RBC-3.62* HGB-11.6* HCT-32.6* 
MCV-90 MCH-32.1* MCHC-35.6* RDW-13.7
___ 03:09AM   NEUTS-84.0* LYMPHS-11.1* MONOS-4.6 EOS-0.2 
BASOS-0.2
___ 03:09AM   PLT COUNT-241
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service after 
undergoing D&C for retained POC presenting with septic abortion. 
Please see the operative report for full details.  Her 
post-operative course was uncomplicated.

Immediately post-op, her pain was controlled with PO oxycodone 
and tylenol. She had IV gent/clinda for 24hrs and was afebrile 
throughout her stay. Patient received methergine 24 hours to 
control bleeding. By time of discharge, she was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.  

 
Medications on Admission:
PNV, fish oil, vitamin D

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
septic abortion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:  
* Take your medications as prescribed.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.  
* You may eat a regular diet.  
* You may walk up and down stairs.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___